US07115611B2
In analogy to the procedures described in example 26B] and 26C], 2-(4-aminomethyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester was reacted with 2-methyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid (prepared from 2-methyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester (example 1L]) in analogy to the procedure described in example 53B]) to give 2-methyl-2-[2-methyl-4-({[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine-3-carbonyl]-amino}-methyl)-phenoxy]-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as light yellow foam.

reactant | 2-(4-aminomethyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)CN)C)=O | C14H21NO3
reactant | 2-methyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid | CC1=C(C(=O)O)C=CC(=N1)C1=CC=C(C=C1)C(F)(F)F | C14H10F3NO2
reactant | 2-methyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C15H12F3NO2
product | 2-methyl-2-[2-methyl-4-({[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine-3-carbonyl]-amino}-methyl)-phenoxy]-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)CNC(=O)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)C)=O | C28H29F3N2O4
